US07842694B2
3-Hydroxy-5-[(1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide
3-[(1-Methylethyl)oxy]-5-[(phenylmethyl)oxy]-N-1,3-thiazol-2-ylbenzamide (11.2 g) was dissolved in trifluoroacetic acid (60 mL) and treated with thioanisole (17.8 mL). The mixture was left to stir at ambient temperature for 18 hours before the trifluoroacetic acid was removed in vacuo. The residues were treated with isohexane (100 mL) and the solid filtered off, before being washed with further isohexane (2×20 mL). The solid was dissolved in ethyl acetate (200 mL) and washed with aqueous saturated sodium hydrogen carbonate solution (100 mL). The organics were washed with water (100 mL) and brine (100 mL), and dried (MgSO4) before evaporation in vacuo to afford a solid which was washed with isohexane (200 mL) and dried in vacuo to give the desired compound (7.18 g). 1H NMR δ (d6-DMSO): 1.27 (d, 6H), 4.55 (m, 1H), 6.49 (m, 1H), 7.02 (s, 1H), 7.14 (s, 1H), 7.25 (d, 1H), 7.54 (d, 1H), 9.73 (s, 1H), 12.44 (s, 1H). m/z 279 (M+H)+, 277 (M−H)−

reactant | 3-[(1-Methylethyl)oxy]-5-[(phenylmethyl)oxy]-N-1,3-thiazol-2-ylbenzamide | 11.2 g | CC(C)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)OCC1=CC=CC=C1 | C20H20N2O3S
reactant | thioanisole | 17.8 mL | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Hydroxy-5-[(1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide | 7.18 g | OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)OC(C)C | C13H14N2O3S
